US05684151
1-(4-Aminobenzenesulfonyl)-3-(3,4-dichlorophenyl)-1,4,5,6-tetrahydropyridazine (Compound 274)
(3,4-Dichlorophenyl)-1-(4-nitrobenzenesulfonyl)-1,4,5,6-tetrahydropyridazine (4.7 g, 11.3 mmol) was suspended in acetic acid at 80° C. Iron filings (3.17 g) were added to this suspension and the resulting reaction mixture was heated at 60°-80° C. until the TLC did not show any starting nitro compound. The mixture was filtered concentrated and purified by column chromatography and recrystallization to give the title compound as a solid: mp 232°-234° C.

reactant | (3,4-Dichlorophenyl)-1-(4-nitrobenzenesulfonyl)-1,4,5,6-tetrahydropyridazine | 11.3 mmol, 4.7 g | ClC=1C=C(C=CC1Cl)C1=NN(CCC1)S(=O)(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C16H13Cl2N3O4S
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | Iron | [Fe] | Fe
product | 1-(4-Aminobenzenesulfonyl)-3-(3,4-dichlorophenyl)-1,4,5,6-tetrahydropyridazine | NC1=CC=C(C=C1)S(=O)(=O)N1N=C(CCC1)C1=CC(=C(C=C1)Cl)Cl | C16H15Cl2N3O2S
